US07834063B2
4-[[2-(2-Pyridinyloxy)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 2-pyridone, using dry DME as reaction solvent: MS (APCI) m/z 390 (M+1).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | 2-pyridone | N1C(C=CC=C1)=O | C5H5NO
solvent | DME | COCCOC | C4H10O2
product | 4-[[2-(2-Pyridinyloxy)ethyl](2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | N1=C(C=CC=C1)OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C17H13F6N3O
